US07056917B2
(A) N3-Methyl-1-{8-[(E)-2-(4-isopropyl-1,3-thiazol-2-yl)-1-ethenyl]-4-oxo-4H-pyrido-[1,2-a]pyrimidin-2-yl}-3-piperidinecarboxamide
2-Hydroxy-8-[(E)-2-(4-isopropyl-1,3-thiazol-2-yl)-1-ethenyl]-4H-pyrido[1,2-a]-pyrimidin-4-one (157 mg, 0.501 mmol) was dissolved in anhydrous tetrahydrofuran (2.5 ml) and anhydrous dimethylformamide (2.5 ml), added with 4-dimethylamino-pyridine (80.0 mg, 0.651 mmol) and p-toluenesulfonyl chloride (105 mg, 0.551 mmol), and stirred at 0° C. for 1.5 hours. Subsequently, the reaction mixture was added with triethylamine (698 μl, 5.01 mmol) and N3-methyl-3-piperidinecarboxamide hydrochloride (448 mg, 2.50 mmol), and then the mixture was stirred at 60° C. for 5.5 hours. The reaction mixture was concentrated, added with saturated aqueous ammonium chloride, and then extracted with chloroform. The organic layer was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=100:2→100:3, v/v) to obtain the title compound (174 mg, 79%).

reactant | 2-Hydroxy-8-[(E)-2-(4-isopropyl-1,3-thiazol-2-yl)-1-ethenyl]-4H-pyrido[1,2-a]-pyrimidin-4-one | 0.501 mmol, 157 mg | OC=1N=C2N(C(C1)=O)C=CC(=C2)\C=C\C=2SC=C(N2)C(C)C | C16H15N3O2S
reactant | p-toluenesulfonyl chloride | 0.551 mmol, 105 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 5.01 mmol, 698 μl | C(C)N(CC)CC | C6H15N
reactant | N3-methyl-3-piperidinecarboxamide hydrochloride | 2.50 mmol, 448 mg | Cl.CNC(=O)C1CNCCC1
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylamino-pyridine | 0.651 mmol, 80.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | N3-Methyl-1-{8-[(E)-2-(4-isopropyl-1,3-thiazol-2-yl)-1-ethenyl]-4-oxo-4H-pyrido-[1,2-a]pyrimidin-2-yl}-3-piperidinecarboxamide | 174 mg, 79% | CNC(=O)C1CN(CCC1)C=1N=C2N(C(C1)=O)C=CC(=C2)\C=C\C=2SC=C(N2)C(C)C | C23H27N5O2S
